US05861421
47b) 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(2-[3-(5-methyl-[1,3,4]oxadiazol-2-yl)phenyl]ethynyl)cyclohexan-1-one
A stirred mixture of 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-ethynylcyclohexan-1-one (0.100 g, 0.32 mmol) and 5-(3-iodophenyl)-2-methyl-[1,3,4]oxadiazole (0.0915 g, 0.32 mmol) in dry triethylamine (3.5 mL) was treated under argon with a mixture of tetrakis(triphenylphosphine)palladium (0.016 g, 0.013 mmol), cuprous iodide (0.0033 g, 0.017 mmol), and triphenylphosphine (a small crystal) at 75° C. for 1 h. The reaction mixture was concentrated in vacuo, the residue was extracted into methylene chloride and the organic phase was washed with cold dilute hydrochloric acid, water, brine and was dried (sodium sulfate). Purification by chromatography (silica, 10 to 20% ethyl acetate in methylene chloride) followed by drying at 50° C. in vacuo afforded the titled compound as a white powder (0.068 g, 45%), mp 139°-141° C. Anal. (C29H30N2O4.1/3H2O) calcd: C 73.09, H 6.49, N 5.88, found: C 73.07, H 6.35, N 5.79. 1H-NMR (400 MHz, CDCl3) δ 8.15 (t, J=1.6 Hz, 1H), 8.01 (d-t, J=1.4 Hz, J=7.9 Hz, 1H), 7.62 (d-d, J=1.5 Hz, J=7.8 Hz, 1H), 7.49 (t, J=7.9 Hz), 7.21 (d, J=2.3, 1H), 7.14 (d-d, J=8.5 Hz, J=2.4 Hz, 1H), 6.88 (d, J=8.5, 1H), 4.82 (p, J=4.2 Hz, 1H), 3.86 (s, 3H), 3.04 (d-t, J=6.1 Hz, J=14.2, 2H), 2.64 (s, 3H), 2.51 (d,br, J=15.0, 2H), 2.42-2.32 (m, 2H), 2.27 (d-t, J=2.8 Hz, J=14.2 Hz, 2H), 2.00-1.5 (m, 9H with H2O).

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-ethynylcyclohexan-1-one | 0.32 mmol, 0.100 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC(CC1)=O)C#C | C20H24O3
reactant | 5-(3-iodophenyl)-2-methyl-[1,3,4]oxadiazole | 0.32 mmol, 0.0915 g | IC=1C=C(C=CC1)C1=NN=C(O1)C | C9H7IN2O
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | triethylamine | 3.5 mL | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium | 0.013 mmol, 0.016 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(2-[3-(5-methyl-[1,3,4]oxadiazol-2-yl)phenyl]ethynyl)cyclohexan-1-one | 0.068 g, 45% | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC(CC1)=O)C#CC1=CC(=CC=C1)C=1OC(=NN1)C | C29H30N2O4
